US08623859B2
4-Methoxy-N,2,6-trimethyl-N-[(3-{[4-(3-pyrrolidin-1-ylpropyl)piperazin-1-yl]carbonyl}-1,2,4-oxadiazol-5-yl)methyl]benzenesulfonamide
The title compound was prepared according to general procedure AT using ethyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,2,4-oxadiazole-3-carboxylate (27 mg, 0.07 mmol), 1-[3-(pyrrolidin-1-yl)propyl]piperazine (40 mg, 0.20 mmol) and trimethylaluminium (2 M in toluene, 0.08 mL) in DCE (2 mL). A portion of the crude product was purified using prep method D.

reactant | ethyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,2,4-oxadiazole-3-carboxylate | 0.07 mmol, 27 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=NC(=NO1)C(=O)OCC)C | C16H21N3O6S
reactant | 1-[3-(pyrrolidin-1-yl)propyl]piperazine | 0.20 mmol, 40 mg | N1(CCCC1)CCCN1CCNCC1 | C11H23N3
reactant | trimethylaluminium | 2 M, 0.08 mL | C[Al](C)C
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
product | 4-Methoxy-N,2,6-trimethyl-N-[(3-{[4-(3-pyrrolidin-1-ylpropyl)piperazin-1-yl]carbonyl}-1,2,4-oxadiazol-5-yl)methyl]benzenesulfonamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(CC1=NC(=NO1)C(=O)N1CCN(CC1)CCCN1CCCC1)C)C | C25H38N6O5S
